US08040047B2
(i) Synthesis of 2-iodo-9,10-diphenylanthracene
10 g (24 mmol) of 2-bromo-9,10-diphenylanthracene was put in a 500 mL three neck flask, the atmosphere in the flask was substituted by nitrogen, and then 150 mL of tetrahydrofuran (THF) was added thereto and dissolved well. This solution was stirred at −78° C. Then, 19 mL of n-butyllithium solution (1.6 mmol/L) was dropped into this solution, with a syringe and stirred for 1 hour at −78° C., so that a white solid substance was precipitated. After reaction, a solution in which 12 g (49 mmol) of iodine was dissolved into 80 mL of tetrahydrofuran was dropped into this reacted mixture using a funnel for dropping. After dropping, the mixture was stirred for 1 hour at −78° C. and for 12 hours at room temperature. After reaction, a sodium thiosulfate solution was added into the reaction solution, and was stirred for 1 hour at room temperature. Ethyl acetate was added into this mixture for extraction. An aqueous layer and an organic layer were separated, and the organic layer was washed with sodium thiosulfate and saturated brine in this order. The aqueous layer and the organic layer were separated and the organic layer was dried with magnesium sulfate. This mixture was subjected to suction filtration so that the magnesium sulfate was removed. The obtained filtrate was concentrated, so that a solid substance was obtained. Methanol was added into this solid substance and washed by ultrasonic wave irradiation, so that a solid substance was precipitated. This solid substance was collected by suction filtration, so that 9.9 g of a light yellow powdered solid substance was obtained in a yield of 90%.

reactant | 2-bromo-9,10-diphenylanthracene | 24 mmol, 10 g | BrC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H17Br
reactant | n-butyllithium | 1.6 mmol/L, 19 mL | C(CCC)[Li]
reactant | iodine | 49 mmol, 12 g | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | Methanol | CO | CH4O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-iodo-9,10-diphenylanthracene | IC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H17I
